US03984467
1-(4-Chlorophenyl)-3-(hexanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 3.2 g. sodium in 200 ml. dry acetone, 21. g. hexanamidine hydrochloride, and 21.4 g. 4-chlorophenyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from acetone 13.9 g. of the hydrochloride of 1-(4-chlorophenyl)-3-(hexanimidoyl)urea; m.p. 175°-179°C.

reactant | sodium | [Na] | Na
reactant | hexanamidine hydrochloride | Cl.C(CCCCC)(=N)N
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Chlorophenyl)-3-(hexanimidoyl)urea | ClC1=CC=C(C=C1)NC(=O)NC(CCCCC)=N | C13H18ClN3O
